US06797823B1
N-{2-Chloro-4-[(7-{2[di(hydroxyethyl)-amino]ethoxy}-6-methoxy-4-quinolyl)oxy]phenyl}-N′-propylurea
A starting compound (N-(4-{[7-(2-bromoethoxy)-6-methoxy-4-quinolyl]oxy}-2-chlorophenyl)-N′-propylurea, 50 mg), potassium carbonate (138 mg), and 1-methylpiperazine (0.055 ml) were dissolved in N,N-dimethylformamide (1 ml), and the mixture was stirred at room temperature for 18 hr. Water was added to the reaction mixture, and the mixture was extracted with chloroform-propanol (3/1). The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure. The residue was washed with ether to give 46 mg (yield 92%) of the title compound.

reactant | N-(4-{[7-(2-bromoethoxy)-6-methoxy-4-quinolyl]oxy}-2-chlorophenyl)-N′-propylurea | BrCCOC1=C(C=C2C(=CC=NC2=C1)OC1=CC(=C(C=C1)NC(=O)NCCC)Cl)OC | C22H23BrClN3O4
reactant | potassium carbonate | 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-methylpiperazine | 0.055 ml | CN1CCNCC1 | C5H12N2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-{2-Chloro-4-[(7-{2[di(hydroxyethyl)-amino]ethoxy}-6-methoxy-4-quinolyl)oxy]phenyl}-N′-propylurea | 46 mg, yield 92% | ClC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OCCN(CCO)CCO)NC(=O)NCCC | C26H33ClN4O6
